US07585885B2
5-(Furan-2-carbonyl)-N-methyl-N-propyl-isophthalamic acid
Dissolve 5-(furan-2-carbonyl)-N-methyl-N-propyl-isophthalamic acid methyl ester (100 mg, 0.3 mmol) in methanol (10 mL). Add dropwise 2 N NaOH (0.225 mL) and stir overnight at room temperature. Acidify the mixture to about pH=6 by 5 N HCl and concentrate to near dryness. Dilute the residue with ethyl acetate and wash by saturated aqueous sodium chloride solution, dry (magnesium sulfate) and concentrate.

reactant | 5-(furan-2-carbonyl)-N-methyl-N-propyl-isophthalamic acid methyl ester | 0.3 mmol, 100 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(=O)C=1OC=CC1)=O | C18H19NO5
reactant | NaOH | 2 N, 0.225 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 5-(Furan-2-carbonyl)-N-methyl-N-propyl-isophthalamic acid | O1C(=CC=C1)C(=O)C=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C | C17H17NO5
